US07186734B2
5-Butyl-6-phenyl-4,5-dihydro-2H-pyridazin-3-one.
A solution of 3-benzoyl-heptanoic acid methyl ester (4.72 g, 19 mmol) and hydrazine monohydrate (4.6 ml, 95 mmol) in ethanol (50 mL) is reflux for 12 hours. The solvent and excess hydrazine monohydrate is removed in vacuo and the residue is partitioned with EtOAc (80 mL) and water (80 mL). The layers are separated and the organic phase is washed with brine (60 mL), dried (Na2SO4) and evaporated in vacuo. Flash column chromatography of the residue (silica gel, 2:1 hexane, EtOAc) provides a creamy solid. LC-MS (M+1) 231. 1H NMR (δ, CDCl3) 8.84 (s, 1H), 7.72–7.79 (m, 2H), 7.37–7.43 (m, 3H), 3.19–3.30 (m, 1H), 2.62 (d, J=6.8 Hz, 2H), 1.52–1.62 (m, 2H). 1.21–1.43 (m, 4H), 0.87 (t, J=7.8 Hz, 3H).

reactant | 3-benzoyl-heptanoic acid methyl ester | 19 mmol, 4.72 g | COC(CC(CCCC)C(C1=CC=CC=C1)=O)=O | C15H20O3
reactant | hydrazine monohydrate | 95 mmol, 4.6 ml | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-Butyl-6-phenyl-4,5-dihydro-2H-pyridazin-3-one | C(CCC)C1CC(NN=C1C1=CC=CC=C1)=O | C14H18N2O
